US06660744B1
A solution of diethyl 3-hydroxy-1,1-cyclobutanedicarboxylate (0.268 g, 0.00116 mol) in pyridine (7 mL) was cooled to 0° C. Methanesulfonyl chloride (0.11 mL, 0.160 g, 0.00140 mol) was added dropwise, keeping the temperature below 2° C. The mixture was stirred for four hours, and then poured into ice water (20 mL) and extracted with ethyl ether (2×10 mL). The combined organic layers were washed with water (3×10 mL) and brine (10 mL). The organic layer was dried over magnesium sulfate and the solvent was removed in vacuo to give diethyl 3-[(methylsulfonyl)oxy]-1,1-cyclobutanedicarboxylate (0.302 g, 0.00102 mol) as a yellow oil.:

reactant | diethyl 3-hydroxy-1,1-cyclobutanedicarboxylate | 0.00116 mol, 0.268 g | OC1CC(C1)(C(=O)OCC)C(=O)OCC | C10H16O5
reactant | Methanesulfonyl chloride | 0.00140 mol, 0.11 mL, 0.160 g | CS(=O)(=O)Cl | CH3ClO2S
solvent | pyridine | 7 mL | N1=CC=CC=C1 | C5H5N
product | diethyl 3-[(methylsulfonyl)oxy]-1,1-cyclobutanedicarboxylate | 0.00102 mol, 0.302 g | CS(=O)(=O)OC1CC(C1)(C(=O)OCC)C(=O)OCC | C11H18O7S
